US08580859B2
Sodium (S)-2-(tert-butoxycarbonylamino)-4-(methylthio)butane-1-sulfonate (350 mg) was treated with 6 N HCl in water at 40° C. for 1 h. The reaction mixture was purified on Diaion HP-20 column eluting with water (200 mL), then 20% CH3CN in water. The fractions were concentrated and dried under vacuum to give (S)-2-amino-4-(methylthio)butane-1-sulfonic acid hydrochloride as a light yellow solid (53 mg, 21%). 1H NMR (DMSO-d6, 300 MHz) d 8.05 (br s, 3H, NH3), 3.4 (br s, 1H, NCH), 2.65 (m, 4H, SCH2 and OSCH2), 2.1 (s, 3H, SCH3), 1.8-2.1 (m, 2H, NCHCH2CH2SCH3). LC-MS: 0.15 min (eluted along with solvent peak); MS (ESI−) m/z 198 (M−1)+. Purity: >95% by 1H NMR and LC-MS. The chirality of the final product was based on the commercially available starting material, (S)-tert-butyl 1-hydroxy-4-(methylthio)butan-2-ylcarbamate, which has a natural configuration (L−). The reactions did not change the chiral center.

reactant | Sodium (S)-2-(tert-butoxycarbonylamino)-4-(methylthio)butane-1-sulfonate | 350 mg | C(C)(C)(C)OC(=O)N[C@H](CS(=O)(=O)[O-])CCSC.[Na+]
reactant | HCl | 6 N | Cl | ClH
solvent | water | O | H2O
product | (S)-2-amino-4-(methylthio)butane-1-sulfonic acid hydrochloride | 53 mg, 21% | Cl.N[C@H](CS(=O)(=O)O)CCSC | InChI=1S/C5H13NO3S2.ClH/c1-10-3-2-5(6)4-11(7,8)9;/h5H,2-4,6H2,1H3,(H,7,8,9);1H/t5-;/m0./s1
